US08044052B2
Step 6: Preparation of N-pyridin-3-yl-4-(3-{[5-(trifluoromethyl)pyridin-2-yl]oxy}benzylidene)piperidine-1-carboxamide
To a mixture of 2-(3-piperidin-4-ylidenemethyl-phenoxy)-5-trifluoromethyl-pyridine (80.0 g, 0.216 mol) and phenyl pyridin-3-ylcarbamate (48.6 g, 0.227 mol) in acetonitrile (650 mL) was added dropwise diisopropylethyl amine (55.8 g, 0.432 mol). A solution formed after ˜45 min of stirring. The slightly turbid solution was stirred at ambient temperature for 18 h. TLC showed a prominent product spot with traces of both starting materials and two other fast moving spots. The solution was concentrated in vacuo to a viscous oil. This was partitioned between dichloromethane (600 mL) and water (500 mL). The aqueous layer was extracted with 200 mL of dichloromethane. The combined organic layers were washed with successive portions of 500 mL of 5% sodium hydroxide, and 200 mL of water, then dried over magnesium sulfate and concentrated in vacuo to 139.5 g of a viscous oil. This was dissolved in 350 mL of warm (50° C.) methyl t-butyl ether. Soon after a solution formed, solid began separating. The crystallizing mixture was kept at −10° C. for 4 h and filtered. The solid was rinsed with 60 mL of methyl t-butyl ether and pressed dry under suction. Further drying in vacuo at 28° C. for 16 h and then at 35° C. for 6 h provided 93.2 g (95%) of product.

reactant | 2-(3-piperidin-4-ylidenemethyl-phenoxy)-5-trifluoromethyl-pyridine | 0.216 mol, 80.0 g | N1CCC(CC1)=CC=1C=C(OC2=NC=C(C=C2)C(F)(F)F)C=CC1 | C18H17F3N2O
reactant | phenyl pyridin-3-ylcarbamate | 0.227 mol, 48.6 g | N1=CC(=CC=C1)NC(OC1=CC=CC=C1)=O | C12H10N2O2
reactant | diisopropylethyl amine | 0.432 mol, 55.8 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 650 mL | C(C)#N | C2H3N
product | N-pyridin-3-yl-4-(3-{[5-(trifluoromethyl)pyridin-2-yl]oxy}benzylidene)piperidine-1-carboxamide | 93.2 g, 95% | N1=CC(=CC=C1)NC(=O)N1CCC(CC1)=CC1=CC(=CC=C1)OC1=NC=C(C=C1)C(F)(F)F | C24H21F3N4O2
